US05760050
8-Methoxy-3-(4-trifluoromethyl-benzyl)-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one
Prepared by the procedure of Example 3 from 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one and 4-trifluoromethylbenzaldehyde. Yield 70%; mp 203°-206° C.

reactant | 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | COC=1C=CC2=C(C1)OC(C=1CNCCC12)=O | C13H13NO3
reactant | 4-trifluoromethylbenzaldehyde | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
product | 8-Methoxy-3-(4-trifluoromethyl-benzyl)-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | Yield 70% | COC=1C=CC2=C(C1)OC(C=1CN(CCC12)CC1=CC=C(C=C1)C(F)(F)F)=O | C21H18F3NO3
